US08202858B2
5-(2-Amino-phenylamino)-1-methyl-1H-pyrazole-4-carboxylic Acid Ethyl Ester
1-Methyl-5-(2-nitro-phenylamino)-1H-pyrazole-4-carboxylic acid ethyl ester (20.8 g, 72 mmol) from Example E11.1 was dissolved in methanol (330 ml) and hydrogenated over 10% Pd/C catalyst for 4 h. The mixture was filtered through Celite® filter agent and the filtrate was concentrated in vacuo to give a white solid identified as the title compound (16.2 g, 87%).

reactant | 1-Methyl-5-(2-nitro-phenylamino)-1H-pyrazole-4-carboxylic acid ethyl ester | 72 mmol, 20.8 g | C(C)OC(=O)C=1C=NN(C1NC1=C(C=CC=C1)[N+](=O)[O-])C | C13H14N4O4
solvent | methanol | 330 ml | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | 5-(2-Amino-phenylamino)-1-methyl-1H-pyrazole-4-carboxylic Acid Ethyl Ester | 16.2 g, 87% | C(C)OC(=O)C=1C=NN(C1NC1=C(C=CC=C1)N)C | C13H16N4O2
